US07078405B2
N-[8-(2-Chloro-4-methoxyphenyl)-2-methoxyimidazo[1,2-a]pyrazin-3-yl]-N-cyclopropylmethyl-N-propylamine
A 28% sodium methoxide solution (5 mL) was added to N[8-(2-chloro-4-methoxyphenyl)-2-(methylsulfonyl)imidazo[1,2-a]pyrazin-3-yl]-N-cyclopropylmethyl-N-propylamine (80 mg), and the mixture was stirred for 6 hours by heating under ref lux. After cooled to room temperature, water was added thereto, which was extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:5) to give the title compound (23 mg) as a pale yellow oil.

reactant | sodium methoxide | 5 mL | C[O-].[Na+]
reactant | N[8-(2-chloro-4-methoxyphenyl)-2-(methylsulfonyl)imidazo[1,2-a]pyrazin-3-yl]-N-cyclopropylmethyl-N-propylamine | 80 mg | ClC1=C(C=CC(=C1)OC)C=1C=2N(C=CN1)C(=C(N2)S(=O)(=O)C)N(CCC)CC2CC2 | C21H25ClN4O3S
solvent | water | O | H2O
product | N-[8-(2-Chloro-4-methoxyphenyl)-2-methoxyimidazo[1,2-a]pyrazin-3-yl]-N-cyclopropylmethyl-N-propylamine | 23 mg | ClC1=C(C=CC(=C1)OC)C=1C=2N(C=CN1)C(=C(N2)OC)N(CCC)CC2CC2 | C21H25ClN4O2
